US06420317B1
2. Preparation of 4-(4-Trifluoromethyl-2-methylsulfonylbenzoyl)-1-ethyl-3-methyl-5-pyrazolyl tosylate
0.37 g (1 mmol) of 4-(4-Trifluoromethyl-2-methylsulfonylbenzoyl)-5-hydroxy-1-ethyl-3-methylpyrazole and 0.20 g (1.1 mmol) of p-Tos-Cl were dissolved in 20 ml of CH3CN. 0.26 g (1.8 mmol) of potassium carbonate was then added, and the mixture was stirred at room temperature for 12 h. The mixture was diluted with water and extracted with ethyl acetate. The extract was dried with MgSO4 and concentrated. This gave 4-(4-Trifluoromethyl-2-methylsulfonylbenzoyl)-l-ethyl-3-methyl-5-pyrazolyl tosylate as a wax.

reactant | 4-(4-Trifluoromethyl-2-methylsulfonylbenzoyl)-5-hydroxy-1-ethyl-3-methylpyrazole | 1 mmol, 0.37 g | FC(C1=CC(=C(C(=O)C=2C(=NN(C2O)CC)C)C=C1)S(=O)(=O)C)(F)F | C15H15F3N2O4S
reactant | potassium carbonate | 1.8 mmol, 0.26 g | C([O-])([O-])=O.[K+].[K+]
reactant | CH3CN | 20 ml | CC#N | C2H3N
solvent | water | O | H2O
product | 4-(4-Trifluoromethyl-2-methylsulfonylbenzoyl)-1-ethyl-3-methyl-5-pyrazolyl tosylate | S(=O)(=O)(OC1=C(C(=NN1CC)C)C(C1=C(C=C(C=C1)C(F)(F)F)S(=O)(=O)C)=O)C1=CC=C(C)C=C1 | C22H21F3N2O6S2
